US07977477B2
To a solution of EDC (11.59 g, 60.7 mmol), HOBt (8.19 g, 60.7 mmol) and 4-amino-1H-pyrazole-3-carboxylic acid methyl ester (7.84 g, 55.6 mmol) in DMF (100 ml) was added 5-tert-butyl-2-methoxy-benzoic acid (10.52 g, 50.6 mmol) and the mixture stirred at room temperature overnight. The mixture was reduced in vacuo and the residue partitioned between EtOAc (500 ml) and brine (200 ml), the organic portion was washed with saturated aqueous sodium hydrogen carbonate (200 ml), dried (MgSO4) and reduced in vacuo to yield 4-(5-tert-butyl-2-methoxy-benzoylamino)-1H-pyrazole-3-carboxylic acid methyl ester as a pale yellow solid (17.07 g, 93%). (LC/MS (acidic method): Rt 3.12 min, [M+H]+ 332).

reactant | EDC | 60.7 mmol, 11.59 g
reactant | HOBt | 60.7 mmol, 8.19 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-amino-1H-pyrazole-3-carboxylic acid methyl ester | 55.6 mmol, 7.84 g | COC(=O)C1=NNC=C1N | C5H7N3O2
reactant | 5-tert-butyl-2-methoxy-benzoic acid | 50.6 mmol, 10.52 g | C(C)(C)(C)C=1C=CC(=C(C(=O)O)C1)OC | C12H16O3
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-(5-tert-butyl-2-methoxy-benzoylamino)-1H-pyrazole-3-carboxylic acid methyl ester | 17.07 g, 93% | COC(=O)C1=NNC=C1NC(C1=C(C=CC(=C1)C(C)(C)C)OC)=O | C17H21N3O4
